US04324741
3 ml of methylene chloride, 0.036 ml of mercaptoacetic acid and 0.04 ml of pyridine were charged in a flask, and 384 mg of heneicosafluoro-n-decylphenyliodonium trifluoromethanesulfonate was added thereto while stirring at room temperature, followed by allowing the mixture to react for 30 minutes at room temperature. The reaction mixture was subjected to silica gel column chromatography, and pentane and then diethyl ether were passed through the column. The diethyl ether was then distilled off to obtain 240 mg (89% yield) of heneicosafluoro-n-decylthioacetic acid.

reactant | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
reactant | mercaptoacetic acid | 0.036 ml | SCC(=O)O | C2H4O2S
reactant | pyridine | 0.04 ml | N1=CC=CC=C1 | C5H5N
reactant | heneicosafluoro-n-decylphenyliodonium trifluoromethanesulfonate | 384 mg | FC(S(=O)(=O)[O-])(F)F.FC(C(C(C(C(C(C(C(C([I+]C1=CC=CC=C1)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | heneicosafluoro-n-decylthioacetic acid | 240 mg, 89% yield | FC(C(C(C(C(C(C(C(C(CC(=S)O)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C12H3F21OS
